US07820664B2
Step H: Methyl 4-fluoro-5-(2-fluoro-4-iodophenylamino)-1-methyl-1H-benzo[d]imidazole-6-carboxylate:
A mixture of methyl 3-allyl-4-fluoro-5-(2-fluoro-4-iodophenylamino)-6-methoxycarbony-1-methyl-3H-benzoimidazol-1-ium iodide, triphenyl phosphine (0.62 g, 2.5 mmoles), palladium tetrakis (0.47 g, 0.48 mmoles) in dichloromethane (15 ml) is cooled at −10° C. Pyrrolidine (0.65 ml) is added dropwise and the reaction mixture is stirred for 2 hours. Water is added and the mixture is extracted with dichloromethane. The organic phases are combined, washed with brine, dried Na2SO4 and concentrated under reduced pressure. The resulting solid is triturated with a mixture of Hexane/Ether (9/1) and isolated by filtration.

reactant | methyl 3-allyl-4-fluoro-5-(2-fluoro-4-iodophenylamino)-6-methoxycarbony-1-methyl-3H-benzoimidazol-1-ium iodide | [I-].CC=1N(C2=C([N+]1C)C=C(C(=C2F)NC2=C(C=C(C=C2)I)F)C(=O)OC)CC=C
reactant | triphenyl phosphine | 2.5 mmoles, 0.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Pyrrolidine | 0.65 ml | N1CCCC1 | C4H9N
reactant | Water | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | palladium tetrakis | 0.48 mmoles, 0.47 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 4-fluoro-5-(2-fluoro-4-iodophenylamino)-1-methyl-1H-benzo[d]imidazole-6-carboxylate | FC1=C(C(=CC=2N(C=NC21)C)C(=O)OC)NC2=C(C=C(C=C2)I)F | C16H12F2IN3O2
